US04248870
As in Example 8, maytansinol (109.0 mg, 0.193 mmol), picolic acid (144.2 mg, 1.171 mmols), DCC (278.5 mg, 1.352 mmols) and DMAP (50.2 mg, 0.411 mmol) are reacted in 10 ml of dry dichloromethane at room temperature for 6 hours. After the insolubles are filtered off, the filtrate is concentrated to dryness and the residue is dissolved in ethyl acetate, washed with water and dried over anhydrous sodium sulfate. The solvent is then distilled off. The residue is chromatographed on a column of silica gel (80 g) and elution is carried out with H2O-saturated ethyl acetate, the eluate being collected in 16-g fractions. Fractions 24 through 49 are pooled and the solvent is distilled off to recover 98 mg of crude product. This crude product is chromatographed again on a column of silica gel (50 g), elution being carried out with chloroform-methanol (40:1, V/V). Fraction 18 through 33 (16 g each) are pooled, the solvent distilled off and the residue dissolved in ethyl acetate, followed by addition of ether. The resultant crystals are collected by filtration. By the above procedure is obtained 45.4 mg of maytansinol 3-picolinate. m.p. 190°-193° C. (decompn.)

reactant | maytansinol | 0.193 mmol, 109.0 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O | C28H37ClN2O8
reactant | picolic acid | 1.171 mmols, 144.2 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | DCC | 1.352 mmols, 278.5 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.411 mmol, 50.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | maytansinol 3-picolinate | 45.4 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O.N1=CC(=CC=C1)C(=O)[O-] | InChI=1S/C28H37ClN2O8.C6H5NO2/c1-15-8-7-9-22(37-6)28(35)14-20(38-26(34)30-28)16(2)25-27(3,39-25)21(32)13-23(33)31(4)18-11-17(10-15)12-19(36-5)24(18)29;8-6(9)5-2-1-3-7-4-5/h7-9,11-12,16,20-22,25,32,35H,10,13-14H2,1-6H3,(H,30,34);1-4H,(H,8,9)/p-1/b9-7+,15-8+;
